US06451801B1
4-[4-(2-Bromopropoxy)phenyl]but-3-yn-1-ol
To a solution of 4-(2-Bromopropoxy)-1-iodobenzene (10 g, 29 mmol), 3-butyn-1-ol (26 mL, 37 mmol), Cul (980 mg, 5.2 mmol) and dichlorobis(triphenylphosphine)palladium(II) (3.6 g, 5.2 mmol) in dichloromethane (40 mL) was added Et3N (6.0 mL, 44 mmol) dropwise. The reaction was stirred overnight at room temperature under Ar. The solvent was evaporated under reduced pressure and ethyl acetate was added to dissolve the compound, the solution was filtered over celite to remove most of the Pd. The crude product was purified by silica gel chromatography, eluted with hexane/ethyl acetate (2:1). 2.6 g of the title compound were obtained as a light brown solid.

reactant | 4-(2-Bromopropoxy)-1-iodobenzene | 29 mmol, 10 g | BrC(COC1=CC=C(C=C1)I)C | C9H10BrIO
reactant | 3-butyn-1-ol | 37 mmol, 26 mL | C(CC#C)O | C4H6O
reactant | Et3N | 44 mmol, 6.0 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 5.2 mmol, 3.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-(2-Bromopropoxy)phenyl]but-3-yn-1-ol | 2.6 g | BrC(COC1=CC=C(C=C1)C#CCCO)C | C13H15BrO2
